US07732460B2
(a) [(4R/S)-3-Fluoro-4-hydroxy-7-oxo-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-4-yl]methyl 4-methylbenzenesulfonate
A mixture of (4R/S)-3-fluoro-4-hydroxy-4-(hydroxymethyl)-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one (553 mg, 2.3 mmol) (racemic material, prepared from 3-fluoro-4-methylidene-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one using AD mix alpha/beta in a similar manner to Example 1(e) Method A) in dichloromethane/tetrahydrofuran/N,N-dimethylformamide (19 ml19 ml/2 ml) was treated with triethylamine (0.5 ml, 3.5 mmol), para-toluenesulphonyl chloride (446 mg, 2.3 mmol) and dibutyltin oxide (29 mg, 0.1 mmol) and stirred at room temperature overnight. Water was then added, the organic phase was separated and washed with saturated aqueous sodium bicarbonate, separated, dried over magnesium sulphate and evaporated under vacuum. The residue was chromatographed on silica eluting with 0-100% ethyl acetate in dichloromethane then 0-10% methanol in ethyl acetate affording a white solid (321 mg, 35%).

reactant | (4R/S)-3-fluoro-4-hydroxy-4-(hydroxymethyl)-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one | 2.3 mmol, 553 mg | FC=1C=NC=2C=CC(N3C2C1C(C3)(CO)O)=O | C11H9FN2O3
reactant | 3-fluoro-4-methylidene-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one | FC=1C=NC=2C=CC(N3C2C1C(C3)=C)=O | C11H7FN2O
reactant | triethylamine | 3.5 mmol, 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | para-toluenesulphonyl chloride | 2.3 mmol, 446 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | dibutyltin oxide | 0.1 mmol, 29 mg | C(CCC)[Sn](CCCC)=O
solvent | dichloromethane tetrahydrofuran N,N-dimethylformamide | 2 ml | ClCCl.O1CCCC1.CN(C=O)C
solvent | Water | O | H2O
product | [(4R/S)-3-Fluoro-4-hydroxy-7-oxo-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-4-yl]methyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC1(CN2C=3C1=C(C=NC3C=CC2=O)F)O | C18H15FN2O5S
